US09212190B2
To a solution of 4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexan-1-one (450 mg, 1.41 mmol, 1.00 equiv) in DCM (10 mL) was added methanesulfonyl chloride (242 mg, 2.11 mmol, 1.50 equiv) and triethylamine (430 mg, 4.25 mmol, 3.00 equiv) via syringe under nitrogen. The resulting solution was stirred for 2 h at room temperature. The resulting mixture was diluted with 50 mL of DCM, washed with brine, dried over anhydrous sodium sulfate and evaporated to give 500 mg (89%) of [(3S)-12-[(4-oxocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate as a yellow oil.

reactant | 4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexan-1-one | 1.41 mmol, 450 mg, 1.00 equiv | OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)=O | C16H18N2O3S
reactant | methanesulfonyl chloride | 2.11 mmol, 242 mg, 1.50 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.25 mmol, 430 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | [(3S)-12-[(4-oxocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate | 500 mg, 89% | CS(=O)(=O)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)=O | C17H20N2O5S2
